US08563617B2
2.2 Ethyl 1-(3,4-dichlorobenzyl)-7-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate
Ethyl 7-(2-aminoethoxy)-1-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate hydrochloride (100 mg, 0.229 mmol) and DMAP (27.9 mg, 0.229 mmol) were dissolved in CH2Cl2 (15 ml) and 1-methyl-1H-imidazole-4-sulfonyl chloride (41.3 mg, 0.229 mmol) dissolved in CH2Cl2 (15 ml) was added. The reaction mixture was stirred over night at RT. After addition of H2O the phases were separated and the aqueous phase was extracted with CH2Cl2. The organic layer was washed with HCl (1N), NaHCO3 solution and NaCl solution, then dried on MgSO4 and the solvent was removed. To the residue EtOAc/diethylether (1:1) was added, stirred, and the precipitate was separated by filtration to obtain a brown solid of product (100 mg).

reactant | Ethyl 7-(2-aminoethoxy)-1-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate hydrochloride | 0.229 mmol, 100 mg | Cl.NCCOC1=CC=C2CCC(C(C2=C1)CC1=CC(=C(C=C1)Cl)Cl)NC(OCC)=O
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | 0.229 mmol, 41.3 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | H2O | O | H2O
catalyst | DMAP | 0.229 mmol, 27.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 1-(3,4-dichlorobenzyl)-7-(2-(1-methyl-1H-imidazole-4-sulfonamido)ethoxy)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate | 100 mg | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OCCNS(=O)(=O)C=2N=CN(C2)C)NC(OCC)=O)C=CC1Cl | C26H30Cl2N4O5S
